US06825191B2
Step 1: Synthesis of t-butyl [4-(4-chlorobenzoyl)-2-oxo-2,3,4,5-tetrahydrobenzo[e][1,4]diazepin-1-yl]acetate
400 mg (1.3 mmol) of [4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on was dissolved in 10 ml of DMF. 59 mg (1.4 mmol) of sodium hydride was added to the obtained solution, and they were stirred at room temperature for 30 minutes. 380 mg (2.0 mmol) of t-butyl bromoacetate was added to the obtained mixture, and they were stirred at room temperature for 4 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the crude product was obtained. The crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | ClC1=CC=C(C(=O)N2CC(NC3=C(C2)C=CC=C3)=O)C=C1 | C16H13ClN2O2
reactant | sodium hydride | 1.4 mmol, 59 mg | [H-].[Na+]
reactant | t-butyl bromoacetate | 2.0 mmol, 380 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | t-butyl [4-(4-chlorobenzoyl)-2-oxo-2,3,4,5-tetrahydrobenzo[e][1,4]diazepin-1-yl]acetate | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC=C3)CC(=O)OC(C)(C)C)=O)C=C1 | C22H23ClN2O4
